US05994355
Synthesis of α-(3,4-dichlorophenyl)-α-(2,6-dichloro-4-nitrophenyl)acetonitrile
To 150 ml of 20% hydrous DMSO were added 6.15 g of 3,4-dichlorobenzyl cyanide, 8.13 g of 4-bromo-3,5-dichloronitrobenzene and 1.50 g of sodium hydroxide. The reaction was allowed to proceed for one hour at temperatures ranging from 60 to 70° C. After completion of the reaction, DMSO was removed, and the residue was dissolved in 50 ml of toluene. The solution was washed with water, dried and concentrated. To the concentrate was added ethyl alcohol-to cause crystallization to afford the titled compound in a yield of 67%, m.p. 171-172° C.

reactant | 3,4-dichlorobenzyl cyanide | 6.15 g | ClC=1C=C(CC#N)C=CC1Cl | C8H5Cl2N
reactant | 4-bromo-3,5-dichloronitrobenzene | 8.13 g | BrC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C6H2BrCl2NO2
reactant | sodium hydroxide | 1.50 g | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | α-(3,4-dichlorophenyl)-α-(2,6-dichloro-4-nitrophenyl)acetonitrile | yield of 67% | ClC=1C=C(C=CC1Cl)C(C#N)C1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C14H6Cl4N2O2
